US06613775B1
Synthesis of 8-(2,6-Dimethylbenzylamino)-2-chloromethyl-3-methylim idazo[1,2-a]pyridine
To a solution of 8-(2,6-dimethylbenzylamino)-2-hydroxymethyl-3-methylimidazo[1,2-a]pyridine (1.0 g, 3.4 mmol) in methylene chloride (50 ml) was added dropwise thionyl chloride (0.5 g, 3.4 mmol) solved in methylene chloride (10 ml) at 5° C. The reaction mixture was stirred 2 h. at 5° C. To the mixture was washed with a saturated bicarbonate solution, the organic layer was separated, dried (Na2SO4) and evaporated under reduced pressure to give 1.0 g (93%) of the title compound.

reactant | 8-(2,6-dimethylbenzylamino)-2-hydroxymethyl-3-methylimidazo[1,2-a]pyridine | 3.4 mmol, 1.0 g | CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)CO)C)C(=CC=C1)C | C18H21N3O
reactant | thionyl chloride | 3.4 mmol, 0.5 g | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 8-(2,6-Dimethylbenzylamino)-2-chloromethyl-3-methylim idazo[1,2-a]pyridine | 1.0 g, 93% | CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)CCl)C)C(=CC=C1)C | C18H20ClN3
